US07399759B2
N,N-Dimethyl-N′-[2-[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]ethyl]urea
A mixture of 2-[6-(2-aminoethyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one trifluoroacetic acid salt (0.45 g, 1.1 mmol), potassium carbonate (0.46 g, 3.3 mmol) and acetonitrile (20 ml) was stirred at room temperature for 20 minutes. Successively N,N-dimethylcarbamoyl chloride (0.47 g, 4.3 mmol) was added to the mixture, and the mixture was stirred at room temperature for 3 hrs. The precipitates were filtered, and the filtrate was concentrated. The residue was subjected to a silica gel column chromatography. The fractions eluted with chloroform-ethanol (20:1, v/v) were collected, concentrated and recrystallized from chloroform-hexane to give the titled compound (0.31 g, 77%) as white crystals.

reactant | 2-[6-(2-aminoethyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one trifluoroacetic acid salt | 1.1 mmol, 0.45 g | FC(C(=O)O)(F)F.NCCC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2
reactant | potassium carbonate | 3.3 mmol, 0.46 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylcarbamoyl chloride | 4.3 mmol, 0.47 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | N,N-Dimethyl-N′-[2-[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]ethyl]urea | 0.31 g, 77% | CN(C(=O)NCCC1=NC(=CC=C1)C=1SC2=C(C(N1)=O)C=CC=C2)C | C18H18N4O2S
